US06320050B1
A solution of 2-(4-cyano-phenyl)-3-cyclopentyl-propionic acid methyl ester (65.0 mg, 0.25 mmol) in tetrahydrofuran/water/methanol (2.5 mL, 3:1:1) was treated with a 1N aqueous lithium hydroxide solution (0.27 mL, 0.27 mmol). The reaction was stirred at 25° C. for 6 h. At this time, the reaction was acidified to pH=1 with a 1N aqueous hydrochloric acid solution and extracted with chloroform/methanol (9:1, 3×25 mL). The organics were dried over sodium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 80/20 hexanes/ethyl acetate) afforded 2-(4-cyano-phenyl)-3-cyclopentyl-propionic acid (36.0 mg, 58.6%) as a white solid: mp 126-128° C.; EI-HRMS m/e calcd for C15H17NO2(M+) 243.1259 found 243.1268.

reactant | 2-(4-cyano-phenyl)-3-cyclopentyl-propionic acid methyl ester | 0.25 mmol, 65.0 mg | COC(C(CC1CCCC1)C1=CC=C(C=C1)C#N)=O | C16H19NO2
reactant | lithium hydroxide | 0.27 mmol, 1N, 0.27 mL | [OH-].[Li+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran water methanol | 2.5 mL | O1CCCC1.O.CO
product | 2-(4-cyano-phenyl)-3-cyclopentyl-propionic acid | 36.0 mg, 58.6% | C(#N)C1=CC=C(C=C1)C(C(=O)O)CC1CCCC1 | C15H17NO2
